US07223769B2
In 6.5 ml of chloroform was dissolved 0.6 g of 4-chloro-6-(2-methylallyloxy)pyrimidine, to which 0.02 g of benzyltriethylammonium chloride was added at 0° C. and 3.25 ml of a 50% sodium hydroxide solution was further added dropwise at the same temperature, followed by stirring at room temperature for 14 hours. The reaction mixture was then poured into water, which was extracted three times with t-butyl methyl ether. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.23 g of 4-chloro-6- [(2,2-dichloro-1-methylcyclopropyl)methoxy]pyrimidine.

reactant | 4-chloro-6-(2-methylallyloxy)pyrimidine | 0.6 g | ClC1=NC=NC(=C1)OCC(=C)C | C8H9ClN2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
reactant | chloroform | 6.5 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | benzyltriethylammonium chloride | 0.02 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 4-chloro-6- [(2,2-dichloro-1-methylcyclopropyl)methoxy]pyrimidine | 0.23 g | ClC1=NC=NC(=C1)OCC1(C(C1)(Cl)Cl)C | C9H9Cl3N2O
